US07943622B2
Step 2. Synthesis of 4-chlorophenyl 2-((3-fluorophenoxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 4-tert-butyl 1-(4-chlorophenyl) 2-((3-fluorophenoxy)methyl)piperazine-1,4-dicarboxylate (38.3 mg, 0.082 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 32.9 mg (99%) of the desired product as a white solid. LC-MS: RT=5.83 min, [M+H]+=365.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 4-tert-butyl 1-(4-chlorophenyl) 2-((3-fluorophenoxy)methyl)piperazine-1,4-dicarboxylate | 0.082 mmol, 38.3 mg | FC=1C=C(OCC2N(CCN(C2)C(=O)OC(C)(C)C)C(=O)OC2=CC=C(C=C2)Cl)C=CC1 | C23H26ClFN2O5
solvent | MeOH | 1 mL | CO | CH4O
product | 4-chlorophenyl 2-((3-fluorophenoxy)methyl)piperazine-1-carboxylate dihydrochloride | 32.9 mg, 99% | Cl.Cl.FC=1C=C(OCC2N(CCNC2)C(=O)OC2=CC=C(C=C2)Cl)C=CC1 | InChI=1S/C18H18ClFN2O3.2ClH/c19-13-4-6-16(7-5-13)25-18(23)22-9-8-21-11-15(22)12-24-17-3-1-2-14(20)10-17;;/h1-7,10,15,21H,8-9,11-12H2;2*1H
